US06306860B1
N-[3-(1H-imidazol-1-yl)propyl]-6-[1-[3-(isobutylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinamide
By the same procedure as described in the example 81, synthesis was carried out starting with 6-[1-[3-(isobutylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid and using 1-(3-aminopropyl)imidazole. And then, the product was recrystallized with isopropanol to give a desired compound.

reactant | 6-[1-[3-(isobutylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid | C(C(C)C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C(=O)O)C=C1 | C20H25N5O3
reactant | 1-(3-aminopropyl)imidazole | NCCCN1C=NC=C1 | C6H11N3
product | N-[3-(1H-imidazol-1-yl)propyl]-6-[1-[3-(isobutylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinamide | Yield: 66% | N1(C=NC=C1)CCCNC(C1=CN=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NCC(C)C)=O | C26H34N8O2
